US07635715B2
Step F: Preparation of N-((6,7-Difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (312 mg, 818 μmol) was dissolved in TFA (2 mL) at ambient temperature and reacted for 30 minutes. The mixture was then concentrated, precipitated with hexanes, filtered, and dried in a vacuum oven to give the title compound (228 mg, 85.7% yield) as a white solid. MS (m/z)=326 (M+H)+. Calculated for C15H13F2NO5 325.08.

reactant | 1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 818 μmol, 312 mg | FC=1C=C2C(=C(C(C(C2=CC1F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H21F2NO5
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6,7-Difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 228 mg, 85.7% yield | FC=1C=C2C(=C(C(C(C2=CC1F)(C)C)=O)C(=O)NCC(=O)O)O | C15H13F2NO5
